US07429605B2
162 mg (0.14 mmol)Pd(PPh3)4 was added under argon at room temperature to a solution of 2.0 g (9.25 mmol) methyl-6-bromo-pyridine-2-carboxylate in 46 ml N,N-dimethylformamide and the mixture was heated to 80° C. Then 4.52 g (13.9 mmol) cesium carbonate and 2.1 g (10.18 mmol) of 4-(trifluoromethoxy)phenylboronic acid were added and the mixture was stirred at 80° C. over night. The reaction mixture was cooled to room temperature, filtered, and the filtrate evaporated. The residue was taken up with ethyl acetate, washed twice with water, dried over sodium sulphate and evaporated. Chromatography on silica (eluent: ethyl acetate/n-heptane 1:3) gave 1.23 g (39%) of 6-(4-Trifluoromethoxy-phenyl)-pyridine-2-carboxylic acid methyl ester

reactant | methyl-6-bromo-pyridine-2-carboxylate | 9.25 mmol, 2.0 g | COC(=O)C1=NC(=CC=C1)Br | C7H6BrNO2
reactant | cesium carbonate | 13.9 mmol, 4.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(trifluoromethoxy)phenylboronic acid | 10.18 mmol, 2.1 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
solvent | N,N-dimethylformamide | 46 ml | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.14 mmol, 162 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-Trifluoromethoxy-phenyl)-pyridine-2-carboxylic acid methyl ester | 1.23 g, 39% | COC(=O)C1=NC(=CC=C1)C1=CC=C(C=C1)OC(F)(F)F | C14H10F3NO3
